US04929741
A solution of 7 g (25 mmol) of methyl 4-hydroxy-4-(2,3,4 -trimethoxyphenyl)-2-butynoate in 40 ml of methylene chloride was added dropwise at 0° to a suspension of 62 g (0.71 mol) of manganese dioxide in 140 ml of methylene chloride. The reaction mixture was stirred at 0° for 1 hour, filtered over magnesium sulphate and concentrated. Crystallization of the residue from ethyl acetate/hexane yielded methyl 3-(2,3,4 -trimethoxybenzoyl)propiolate of melting point 74°.

reactant | methyl 4-hydroxy-4-(2,3,4 -trimethoxyphenyl)-2-butynoate | 25 mmol, 7 g | OC(C#CC(=O)OC)C1=C(C(=C(C=C1)OC)OC)OC | C14H16O6
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 140 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 0.71 mol, 62 g | [O-2].[O-2].[Mn+4]
product | methyl 3-(2,3,4 -trimethoxybenzoyl)propiolate | COC1=C(C(=O)C#CC(=O)OC)C=CC(=C1OC)OC | C14H14O6
